US04030925
44. 1-[4-(2-Acetylhydrazino)phenyl]-1-benzyl-3-phenylthiourea (NA-40)
1-Acetyl-2-(4-benzylaminophenyl)hydrazine (2.80 g, 0.011 mole) and phenylisothiocyanate (1.35 g, 0.01 mole) were mixed in ethanol (25 ml) and the resulting mixture was refluxed for 5 minutes. The mixture was chilled in ice and water was added to precipitate the product. The product oiled out of solution, but became crystalline upon standing and scratching. The solid was filtered off and washed with water, then ether. After drying the product was a pale yellow crystalline powder. Yield 3.0 g (77%), m.p. 114°-117° C.

reactant | 1-Acetyl-2-(4-benzylaminophenyl)hydrazine | 0.011 mole, 2.80 g | C(C)(=O)NNC1=CC=C(C=C1)NCC1=CC=CC=C1 | C15H17N3O
reactant | phenylisothiocyanate | 0.01 mole, 1.35 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | water | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-[4-(2-Acetylhydrazino)phenyl]-1-benzyl-3-phenylthiourea | C(C)(=O)NNC1=CC=C(C=C1)N(C(=S)NC1=CC=CC=C1)CC1=CC=CC=C1 | C22H22N4OS
